US07005437B2
a) 3-propargylamino-benzonitrile
11.8 g (0.1 mol) of 3-aminobenzonitrile and 12.3 ml (0.11 mol) of propargyl bromide (80% in toluene) are stirred in 250 ml toluene and 19.2 ml (0.11 mol) of N-ethyl-diisopropylamine for 18 hours at 90° C. After cooling the mixture is diluted with ethyl acetate and washed with water. The combined organic extracts are dried and concentrated by evaporation. The residue is chromatographed on silica gel, eluting with dichloromethane/ethanol in the ratio 98:2.

reactant | 3-aminobenzonitrile | 0.1 mol, 11.8 g | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | propargyl bromide | 0.11 mol, 12.3 ml | C(C#C)Br | C3H3Br
reactant | N-ethyl-diisopropylamine | 0.11 mol, 19.2 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-propargylamino-benzonitrile | C(C#C)NC=1C=C(C#N)C=CC1 | C10H8N2
